Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None 

attach
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 10:20AM BLOOD WBC-23.1* RBC-5.12 Hgb-15.3 Hct-45.8 
MCV-90 MCH-29.9 MCHC-33.4 RDW-13.2 RDWSD-43.4 Plt ___
___ 10:20AM BLOOD Neuts-91.3* Lymphs-2.3* Monos-5.4 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-21.10* AbsLymp-0.52* 
AbsMono-1.24* AbsEos-0.01* AbsBaso-0.06
___ 10:20AM BLOOD Glucose-102* UreaN-26* Creat-1.1 Na-137 
K-4.1 Cl-98 HCO3-25 AnGap-14
___ 06:20AM BLOOD Calcium-8.7 Phos-2.8 Mg-1.8
___ 10:30AM BLOOD %HbA1c-5.6 eAG-114
___ 10:20AM BLOOD CRP-14.3*
___ 06:01PM BLOOD HIV Ab-NEG

DISCHARGE LABS:
================
___ 06:30AM BLOOD WBC-12.3* RBC-4.95 Hgb-14.7 Hct-45.3 
MCV-92 MCH-29.7 MCHC-32.5 RDW-13.3 RDWSD-45.1 Plt ___
___ 06:30AM BLOOD Glucose-105* UreaN-16 Creat-0.8 Na-142 
K-5.2 Cl-101 HCO3-27 AnGap-14

MICRO: 
=======

___ 10:20 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE 
================================= 
Mr. ___ is a ___ yo gentleman with a history of HTN and RLE 
lymphangitis c/b sepsis who initially presented with fevers, 
chills, and acute onset of RLE pain, swelling, and erythema, 
found to have cellulitis with inguinal lymphadenitis. He was 
treated with broad spectrum antibiotics that were appropriately 
narrowed to cefazolin, with defervesced fever & resolved 
leukocytosis. The cellulitis was attributed to his severe foot 
skin cracking ___ tinea pedis, for which he was initiated on 
ketoconazole cream. 

TRANSITIONAL ISSUES: 
================================= 
[] PCP: please ___ tinea pedis & onychomycosis, as this is 
a likely source of skin breakdown contributing to recurrent 
cellulitis. Consider need for oral therapy if not improving on 
topicals. Consider podiatry evaluation
[] ___ if cellulitis continuing to improve. Consider 
extending course and/or infectious disease evaluation if 
unresolved by ___

#CODE: FULL
#CONTACT: Wife (___) ___

___ Non-Purulent Cellulitis w/ Lymphadenitis: 
# Sepsis
___ presentation of RLE cellulitis w/ tender inguinal LN & 
overlying erythema c/w lymphadenitis. Suspect related to skin 
cracks on b/l feet ___ tinea pedis. Fever & WBC improved with IV 
cefazolin. Last febrile ___. Upon discharge, transitioned to PO 
cephalexin. He will be discharged with a 14d course since last 
fever (END: ___.

#Tinea Pedis: 
Likely cause of recurrent cellulitis. Provided ketoconazole 
cream BID.
[]TI: will need outpt podiatry or PCP ___ for foot care 

#Headache: 
Bitemporal w/o migranous features, suspect tension. Provided 
symptomatic analgesics with good effect. 

CHRONIC ISSUES:
===============
#Hypertension: 
Held home lisinopril-hydrochlorothiazide while concern for 
infection. Okay to resume upon discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide ___ mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Cephalexin 500 mg PO Q6H Duration: 10 Days  
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
4.  Ketoconazole 2%  1 Appl TP BID  
5.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Cellulitis w/ Lymphadenitis

Secondary: 
Hypertension
Tinea Pedis
Onychomycosis
Tension Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for rash and fever.  
 
What was done for me while I was in the hospital?  
- We gave you strong antibiotics through an IV and then 
transitioned you when appropriate to antibiotics by mouth to 
treat your skin infection
- We gave you anti-fungal cream to help improve your feet, which 
we think have a fungal infection
- We did tests on your blood to make sure you did not have an 
infection in your blood stream

What should I do when I leave the hospital?  
- Take all of your medications as prescribed
- ___ with all of your physicians as directed (should 
___ with podiatry for foot care)

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___